US05179121
15.8 g of 4-chloro-4,4-difluorobutyric acid are mixed with 50 ml of thionyl chloride and 0.2 ml of dimethylformamide and heated to +70° C. over the course of 2 hours and then maintained at +70° C. for a further 30 minutes. The reaction mixture is distilled in vacuo, and the liquid boiling at 35°-37° C./21 mbar is collected. 10.5 g of 4-chloro-4,4-difluorobutyryl chloride are obtained in the form of a clear colourless liquid.

reactant | 4-chloro-4,4-difluorobutyric acid | 15.8 g | ClC(CCC(=O)O)(F)F | C4H5ClF2O2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 4-chloro-4,4-difluorobutyryl chloride | 10.5 g | ClC(CCC(=O)Cl)(F)F | C4H4Cl2F2O
